US04219559
A mixture of 19 parts of methyl 4-(1H-benzimidazol-2-ylamino)-3-methyl-1-piperidinecarboxylate, 11 parts of 1-(chloromethyl)-4-fluorobenzene, 6 parts of sodium carbonate and 135 parts of N,N-dimethylformamide is stirred and heated overnight at 70° C. The reaction mixture is cooled and poured onto water. The product is extracted three times with methylbenzene. The combined extracts are dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2-propanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 8 parts (38%) of methyl 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-3-methyl-1-piperidinecarboxylate; mp. 172.5° C.

reactant | methyl 4-(1H-benzimidazol-2-ylamino)-3-methyl-1-piperidinecarboxylate | N1C(=NC2=C1C=CC=C2)NC2C(CN(CC2)C(=O)OC)C | C15H20N4O2
reactant | 1-(chloromethyl)-4-fluorobenzene | ClCC1=CC=C(C=C1)F | C7H6ClF
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-3-methyl-1-piperidinecarboxylate | 38% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2C(CN(CC2)C(=O)OC)C | C22H25FN4O2
